US07582673B2
To a solution of 2-(4-methoxybenzenesulfonyl)ethanol (20 mmol) in dry DCM (20 mL), triethylamine (4 mL) was added. The reaction mixture was cooled to 0° C. followed by dropwise addition of methanesulfonyl chloride (3 mL). The reaction mixture was then stirred at room temperature for 12 h after which it was diluted with DCM (150 mL). The organic phase was washed with 10% aqueous HCl (50 mL), dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with hexanes/EtOAc (3:1 to 1:1) to give 5-ethenesulfonyl-2-methoxybenzene (3 g).

reactant | 2-(4-methoxybenzenesulfonyl)ethanol | 20 mmol | COC1=CC=C(C=C1)S(=O)(=O)CCO | C9H12O4S
reactant | methanesulfonyl chloride | 3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 5-ethenesulfonyl-2-methoxybenzene | 3 g | C(=C)S(=O)(=O)C=1C=CC(=CC1)OC | C9H10O3S
